US07319104B2
2-Methyl-2-[4-(2-{(5-propylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]propanoic acid
Similarly prepared from ethyl 2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and allyltributyltin.

reactant | ethyl 2-[4-(2-{(5-bromopyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | BrC=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)OC(F)(F)F | C27H28BrF3N2O4
reactant | allyltributyltin | C(C=C)[Sn](CCCC)(CCCC)CCCC
product | 2-Methyl-2-[4-(2-{(5-propylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]propanoic acid | CC(C(=O)O)(C)OC1=CC=C(C=C1)CCN(CC1=CC=C(C=C1)OC(F)(F)F)C1=NC=C(C=C1)CCC | C28H31F3N2O4
